US04675355
Synthesis of N-Ethyl-N-2-hydroxyethyl-p-nitrosoaniline (EHNA)
A solution was prepared by dissolving 18.5 g (0.26 mol) of sodium nitrite, of a purity of 97%, in 30 ml of water. This solution was added dropwise to a solution composed of 41.3 g (0.25 mol) of N-ethyl-N-2-hydroxyethylaniline, 200 g of water and 105 ml of conc HCl with stirring at a temperature between 5° and 10° C. for one-half hour. After stirring the solution obtained at a temperature between 10° and 20° C. for one hour, the solution was neutralized to pH 8 with a 15% aqueous solution of sodium hydroxide. 100 ml of benzene was added to the neutralized solution with stirring. After standing, the organic phase of the solution was separated. The benzene of the organic phase obtained was removed under reduced pressure. 28.9 g of N-ethyl-N-2-hydroxyethyl-p-nitrosoaniline which is a dark brown colored viscous liquid was obtained. The yield was 59.6%.

reactant | sodium nitrite | 0.26 mol, 18.5 g | N(=O)[O-].[Na+]
reactant | N-ethyl-N-2-hydroxyethylaniline | 0.25 mol, 41.3 g | C(C)N(C1=CC=CC=C1)CCO | C10H15NO
reactant | HCl | 105 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 200 g | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-Ethyl-N-2-hydroxyethyl-p-nitrosoaniline | yield was 59.6% | C(C)N(C1=CC=C(C=C1)N=O)CCO | C10H14N2O2
